US09169254B2
Potassium cyanide (382 mg, 5.87 mmol) and ammonium acetate (513 mg, 6.65 mmol) were added to a solution of N-(2-allyloxy-ethyl)-3,N-dimethyl-4-[2-(4-oxo-piperidine-1-sulfonyl)-ethyl]-benzamide (1.65 g, 3.91 mmol) in methanol (20 ml), and the mixture was stirred at 65° C. for three hours. Sodium bicarbonate (290 mg) was added to the reaction solution, and the mixture was then concentrated under reduced pressure. Water was added to the resulting residue, followed by extraction with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give N-(2-allyloxy-ethyl)-4-[2-(4-amino-4-cyano-piperidine-1-sulfonyl)-ethyl]-3,N-dimethyl-benzamide (1.57 g) as a crude compound.

reactant | Potassium cyanide | 5.87 mmol, 382 mg | [C-]#N.[K+]
reactant | ammonium acetate | 6.65 mmol, 513 mg | C(C)(=O)[O-].[NH4+]
reactant | N-(2-allyloxy-ethyl)-3,N-dimethyl-4-[2-(4-oxo-piperidine-1-sulfonyl)-ethyl]-benzamide | 3.91 mmol, 1.65 g | C(C=C)OCCN(C(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)=O)C)=O)C | C21H30N2O5S
reactant | Sodium bicarbonate | 290 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | N-(2-allyloxy-ethyl)-4-[2-(4-amino-4-cyano-piperidine-1-sulfonyl)-ethyl]-3,N-dimethyl-benzamide | 1.57 g | C(C=C)OCCN(C(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)(C#N)N)C)=O)C | C22H32N4O4S
